US09340544B2
Benzo[1,3]dioxol-5-yl-[2-(3,5-dimethyl-pyrazol-1-yl)-9-ethyl-9H-purin-6-yl]-amine (Compound 6.5)
Was prepared according to Example 6 from benzo[1,3]dioxol-5-yl-(2-chloro-9-ethyl-9H-purin-6-yl)-amine and 3,5-dimethylpyrazole.

reactant | benzo[1,3]dioxol-5-yl-(2-chloro-9-ethyl-9H-purin-6-yl)-amine | O1COC2=C1C=CC(=C2)NC2=C1N=CN(C1=NC(=N2)Cl)CC | C14H12ClN5O2
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | Benzo[1,3]dioxol-5-yl-[2-(3,5-dimethyl-pyrazol-1-yl)-9-ethyl-9H-purin-6-yl]-amine | O1COC2=C1C=CC(=C2)NC2=C1N=CN(C1=NC(=N2)N2N=C(C=C2C)C)CC | C19H19N7O2
